US09326987B2
N-[6-(5-Fluoro-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-indazol-4-yl]-2-methyl-1,3-thiazole-4-carboxamide
2-Methyl-N-[1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-yl]-1,3-thiazole-4-carboxamide (1 g) was dissolved in DMF (4 ml) and 400 μl of the resultant solution was dispensed to 5-fluoro-4-iodo-1-[(4-nitrophenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridine (0.18 mmol) in DMF (400 μl) in a microwave vessel. Solvias catalyst (4 mg) was added and the reaction was heated in the microwave using initial 700 W to 135° C. for 20 min. The solution was loaded onto C18 SPE (pre-conditioned with 0.1% TFA in MeCN) and flushed through with 0.1% TFA in MeCN (3 ml). The solvent was removed under nitrogen blowdown. The sample was dissolved in DMSO (0.5 ml) and purified by MDAP (method D). The solvent was evaporated in vacuo using the Genevac. The sample was dissolved in IPA (300 μl) and 2M NaOH (aq) (300 μl) was added. The reaction was left overnight. The sample was dissolved in DMSO (0.6 ml) and purified by MDAP (method M). The solvent was evaporated in vacuo using the Genevac to give title compound, 2 mg.

reactant | 2-Methyl-N-[1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-yl]-1,3-thiazole-4-carboxamide | 1 g | CC=1SC=C(N1)C(=O)NC1=C2C=NN(C2=CC(=C1)[Sn](C)(C)C)S(=O)(=O)C1=CC=CC=C1
reactant | 5-fluoro-4-iodo-1-[(4-nitrophenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridine | 0.18 mmol | FC=1C(=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-])I | C13H7FIN3O4S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 400 μl | CN(C)C=O | C3H7NO
solvent | MeCN | CC#N | C2H3N
product | N-[6-(5-Fluoro-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-indazol-4-yl]-2-methyl-1,3-thiazole-4-carboxamide | FC=1C(=C2C(=NC1)NC=C2)C2=CC(=C1C=NNC1=C2)NC(=O)C=2N=C(SC2)C | C19H13FN6OS
